US04118567
3Morpholino-2-(2-pyridyl)thiopropanamide (500 mg.) in ether is added to ethereal hydrogen chloride. The precipitate is filtered off and washed with ether to give 3-morpholino-2-(2-pyridyl)thiopropanamide dihydrochloride.

reactant | 3Morpholino-2-(2-pyridyl)thiopropanamide | 500 mg | O1CCN(CC1)CC(C(=S)N)C1=NC=CC=C1 | C12H17N3OS
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-morpholino-2-(2-pyridyl)thiopropanamide dihydrochloride | Cl.Cl.O1CCN(CC1)CC(C(=S)N)C1=NC=CC=C1 | InChI=1S/C12H17N3OS.2ClH/c13-12(17)10(11-3-1-2-4-14-11)9-15-5-7-16-8-6-15;;/h1-4,10H,5-9H2,(H2,13,17);2*1H
